US06215004B1
To a 12 L, three necked round bottomed flask equipped with a mechanical stirrer, immersion thermometer, oil filled gas outlet bubbler and an ozone inlet tube was charged 2-butene-1,4-dibutyrate (1005.0 g, 4.4 moles) and methanol (5 L). The Ozonia CFS-2 ozone generator, 1200 watts, 1 atmosphere oxygen, flow 1 m3/h, stirrer was started and the mixture was cooled in an ice/methanol bath to −20° C. Ozone bubbled into the solution. The temperature of the mixture rose to −10° C. during the addition of ozone. After two hours, thin layer chromatographic analysis of the reaction mixture (silica gel plate, Analtech No. 02521, eluted with 9:1 hexane/EtOAc and visualized with PMA stain) showed the complete disappearance of the starting material. The stirred reaction mixture was purged with nitrogen for 15 minutes and cooled back down to −20° C. Thiourea (170 g, 2.23 moles, Johnson Matthey I0B16) was added in 17 gram portions over 1.5 hours. The temperature of the mixture rose to 0° C. One hour after the complete addition of thiourea, thin layer chromatography and 1H NMR analysis showed the complete disappearance of the ozonide. The mixture was cooled back down to −20° C. and filtered. The filtrate was evaporated to afford 1.5 kg of 2-oxoethyl butyrate methyl hemiacetal (97% yield) as a pale yellow oil. The NMR spectrum was consistent with a reference spectrum.

reactant | 2-butene-1,4-dibutyrate | 4.4 moles, 1005.0 g | CCCC(=O)OC/C=C/COC(=O)CCC | C12H20O4
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
reactant | Thiourea | 2.23 moles, 170 g | NC(=S)N | CH4N2S
reactant | methanol | 5 L | CO | CH4O
product | 2-oxoethyl butyrate methyl hemiacetal | 1.5 kg, 97% yield | COC(CCC)(OCC=O)O | C7H14O4
